US08530648B2
c) 2-(2-(2H-1,2,3-triazol-2-yl)benzyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one
To a stirred solution of 2-(2-(2H-1,2,3-triazol-2-yl)benzyl)-2,9-diazaspiro[5.5]undecan-1-one (TFA salt) (200 mg, 0.354 mmol, contains 2.0 moleq. TFA) and diisopropylethylamine (0.64 mL, 3.61 mmol) in acetonitrile (1 mL) was added 2-chloroquinoxaline [1448-87-9] (121 mg, 0.72 mmol). The mixture was heated at 120° C. for 40 min under microwave conditions. The reaction mixture was cooled to rt and concentrated under reduced pressure. The crude mixture was purified by flash-column chromatography over silicagel (eluent: gradient 10%-100% ethyl acetate/heptane) to yield the title compound (106 mg, 65%). [1H NMR (400 MHz, DMSO-d6) ♀ ppm 8.81 (s, 1H), 8.11 (s, 2H), 7.80 (d, 1H), 7.59-7.63 (m, 1H), 7.56-7.59 (m, 2H), 7.44-7.55 (m, 2H), 7.33-7.40 (m, 1H), 7.24-7.29 (m, 1H), 4.54 (br. s, 2H), 4.19-4.29 (m, 2H), 3.39-3.49 (m, 2H), 3.13 (t, 2H), 1.99-2.10 (m, 2H), 1.84-1.92 (m, 2H), 1.73-1.83 (m, 2H), 1.54-1.65 (m, 2H); LCMS RtA=1.16, [M+H]+=454.4].

reactant | 2-(2-(2H-1,2,3-triazol-2-yl)benzyl)-2,9-diazaspiro[5.5]undecan-1-one | 0.354 mmol, 200 mg | N=1N(N=CC1)C1=C(CN2C(C3(CCC2)CCNCC3)=O)C=CC=C1 | C18H23N5O
reactant | diisopropylethylamine | 3.61 mmol, 0.64 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloroquinoxaline | 0.72 mmol, 121 mg | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 2-(2-(2H-1,2,3-triazol-2-yl)benzyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one | 106 mg, 65% | N=1N(N=CC1)C1=C(CN2C(C3(CCC2)CCN(CC3)C3=NC2=CC=CC=C2N=C3)=O)C=CC=C1 | C26H27N7O
